US07544688B2
B: 2-(3-Chloro-propoxy)-phenylamine
1-(3-Chloro-propoxy)-2-nitro-benzene (˜60 mmol) is dissolved in ethanol (200 ml) and platinum dioxide (0.5 g) is added. The stirred mixture is treated with hydrogen under normal pressure until the hydrogen uptake stopped. The catalyst is filtered off and the filtrate is evaporated. A pale yellow oil with Rf=0.3 (CH2Cl2) is obtained, which is used in the next step without further purification.

reactant | 1-(3-Chloro-propoxy)-2-nitro-benzene | ˜60 mmol | ClCCCOC1=C(C=CC=C1)[N+](=O)[O-] | C9H10ClNO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 0.5 g | [Pt](=O)=O
product | 2-(3-Chloro-propoxy)-phenylamine | ClCCCOC1=C(C=CC=C1)N | C9H12ClNO
